US08669280B2
To a mixture of 3-bromobenzophenone (5.0 g, 19 mmol), palladium acetate (215 mg, 0.958 mmol), and tri-o-tolylphosphine (290 mg, 0.953 mmol) was added triethylamine (3.3 mL, 45 mmol), toluene (4 mL), and methyl acrylate (2.2 mL, 27 mmol). The mixture was heated at 100° C. for 18 hours at which time—TLC analysis showed the reaction was still incomplete. Additional portions of palladium acetate (215 mg, 0.958 mmol), tri-o-tolylphosphine (290 mg, 0.953 mmol), triethylamine (3.3 mL, 45 mmol) and methyl acrylate (2.2 mL, 27 mmol) were added, and the mixture was heated at 110° for a further 18 hours. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate (3×10 mL). The combined organic extracts were washed sequentially with water and brine, and then dried (MgSO4) and concentrated to a brown oil (5.3 g). The oil was chromatographed over silica gel. Elution with ethyl acetate/hexanes (1:9) afforded methyl 3-benzoylcinnamate (4.6 g, 91%) as a yellow solid.

reactant | 3-bromobenzophenone | 19 mmol, 5.0 g | BrC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H9BrO
reactant | triethylamine | 45 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl acrylate | 27 mmol, 2.2 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 45 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | methyl acrylate | 27 mmol, 2.2 mL | C(C=C)(=O)OC | C4H6O2
catalyst | palladium acetate | 0.958 mmol, 215 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.958 mmol, 215 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.953 mmol, 290 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | tri-o-tolylphosphine | 0.953 mmol, 290 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | water | O | H2O
product | methyl 3-benzoylcinnamate | 4.6 g, 91% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC(=O)OC)C=CC1 | C17H14O3
